Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Unwitnessed Fall 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ woman with history of HTN, HLD, DM,
GERD, SVT, bladder cancer, recurrent UTIs, and dementia who
presents as a transfer from ___ with noted
traumatic small subarachnoid hemorrhage after unwitnessed fall
this morning with unknown downtime. 

Per report, patient was found down by ___. She told ___ she had
gone to get the mail, and fell on her way back. At time of being
found she had no acute pain or confusion. She was helped up and
EMS called. Per the patient's son, she typically gets the mail
around 1pm, and ___ typically comes around ___, so downtime 
may
have been brief, although patient is unable to provide further
detail so difficult to confirm. Patient is unable to confirm
whether she lost consciousness. 

She was taken to ___ where She underwent CT
head which revealed small subarachnoid hemorrhage high in the
right parietal lobe without mass-effect. She had CT C-spine
without abnormality, normal CXR and EKG that was not concerning.
Labs notable for mild anemia (9 from baseline 11 in ___, troponin negative. She was given one dose of keppra and
transferred to ___ for neurosurgical evaluation. 

On arrival to ___ ED vitals were stable. Her neurologic exam
was reported to be at baseline without focal deficit. Her mental
status was notable for word finding difficulties, short answers.
Neurosurgery was consulted and recommended repeat CT Head which
showed stable bleed (6mm within R parasaggital region). They
recommended no further followup. She also underwent CT
Abdomen/Pelvis which showed a known bladder mass. Her UA showed
RBCs and WBCs without bacteria or nitrites but she was started 
on
CTX for possible UTI. 

In the ___ ED she received: 
1 L IVF  LR, IV CefTRIAXone, Multivitamins 1 TAB, and PO 
Docusate
Sodium 100 mg.

According to her son, the patient lives independently in a home
that is joined with his. She ambulates independently but has
unsteady gait and has had several falls. She has a walker but is
not able to use it most of the time. She has a ___ and 
homemaker,
and family check in on her frequently. She was supposed to start
home ___ but this had not started yet. Regarding her dementia, 
she
has poor short term memory, speaks mostly in short sentences, 
and
is usually oriented to home but not date.  

 On arrival to the floor she denies pain or discomfort but 
cannot
provide additional information to the above. 
 

 
Past Medical History:
HTN
HLD
SVT
T2DM
Osteoarthritis
GERD
Bladder cancer
Recurrent UTIs
Dementia
Hysterectomy
Cataract surgery 
 
Social History:
___
Family History:
Diabetes, ovarian cancer, colon cancer
 
Physical Exam:
Admission Physical Exam:
Vitals: T 97.2, BP 127/61, HR 64, RR 16, O2 95% on RA  
 General: A&Ox1, able to say name but not oriented to location 
or
date, no acute distress  
 Eyes: Sclera anicteric. PERRL. L pupil shape irregularity, but
reactive to light. 
 HEENT: MMM, oropharynx clear  
 Neck: supple, no LAD  
 Resp: clear to auscultation bilaterally, no wheezes, rales,
ronchi  
 CV: regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
 GI: soft, non-tender, non-distended, bowel sounds present, no
rebound tenderness or guarding, no organomegaly  
 MSK: warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema  
 Neuro: Face symmetric, tongue midline, pupils reactive with 
L>R.
Remainder of CN exam limited by patient's mental status.
bilateral upper extremity and lower extremity strength is
preserved. She does not report sensory deficits to the best of
her ability to participate. mental status notable for: able to
provide name, birthday, unable to name location or year. Follows
simple commands, at times with perseverative speech. 

============================
Discharge Physical Exam
___ ___ Temp: 98.5 PO BP: 145/78 HR: 69 RR: 18 O2
sat: 93% O2 delivery: Ra  
 General: A&Ox3, no acute distress  
 Eyes: Sclera anicteric. PERRL. L pupil shape irregularity, but
reactive to light. 
 HEENT: MMM, oropharynx clear  
 Neck: supple, no LAD  
 Resp: clear to auscultation bilaterally, no wheezes, rales,
ronchi  
 CV: regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
 GI: soft, non-tender, non-distended, bowel sounds present, no
rebound tenderness or guarding, no organomegaly  
 MSK: warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema  
 Neuro: Face symmetric, tongue midline, pupils reactive with 
L>R.
Remainder of CN exam limited by patient's mental status.
bilateral upper extremity and lower extremity strength is
preserved. She does not report sensory deficits to the best of
her ability to participate. mental status notable for: able to
provide name, birthday, location (hospital) and date. Follows
simple commands, at times with perseverative speech. 

 
Pertinent Results:
___ 01:13AM   WBC-10.4* RBC-3.39* HGB-9.3* HCT-29.3* MCV-86 
MCH-27.4 MCHC-31.7* RDW-14.9 RDWSD-46.9*
___ 01:13AM   GLUCOSE-99 UREA N-39* CREAT-1.2* SODIUM-142 
POTASSIUM-4.3 CHLORIDE-103 TOTAL CO2-24 ANION GAP-15
___ 02:04AM URINE  RBC->182* WBC-156* BACTERIA-NONE 
YEAST-NONE EPI-0
___ 02:04AM URINE  BLOOD-MOD* NITRITE-NEG PROTEIN-100* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-TR*

CT Abd/Pelvis ___
IMPRESSION: 
1. 6.5 x 4.4 x 7.2 cm intraluminal left urinary bladder wall 
mass with 
adjacent left pelvic sidewall lymphadenopathy as well as 
lymphadenopathy 
extending up to the left renal hilum is concerning for 
urothelial malignancy,as described above.  Perivesicular 
stranding of fat noted adjacent to the left lateral bladder 
wall. 
2. Moderate obstructive left-sided hydroureteronephrosis 
secondary to 
obstruction by the bladder mass. 
3. No nephrolithiasis. 
4. Cholelithiasis. 
5. No suspicious osseous lesions. 
  

CT Head ___
1. 6 mm focus of hyperdensity within the right parasagittal 
region likely 
represents a focus of hemorrhage, similar to the most recent 
prior head CT, for which short interval follow-up is recommended 
to exclude progression. 
2. Cortical atrophy and sequela of chronic microvascular 
ischemic changes. 
3. The right orbit is notable for asymmetry of the right lamina 
papyracea 
suggestive of prior fracture versus developmental defect. 

 
Brief Hospital Course:
Ms. ___ is a ___ woman with history of HTN, HLD, DM, 
GERD, SVT, bladder cancer, recurrent UTIs, and dementia who 
presented after unwitnessed fall at home and found to have 
subarachnoid hemorrhage. She was transferred from ___ 
___ for neurosurgical evaluation. Repeat CT head was 
stable, she was at her baseline neurologic exam, and 
neurosurgery felt comfortable with discharge without followup. 
She had a ___ evaluation in house where she was felt to be stable 
with ambulation but to have poor safety awareness. Recommend 
ongoing support at home as well as home safety evaluation 
through ___. 

=========================
Acute Medical Issues Addressed:
#TBI
#Subarachnoid hemorrhage
6mm focus in the parietal lobe noted at ___ and 
stable on repeat Head CT at ___. She was at her baseline 
neurologic exam. Neurosurgery evaluated with no further 
follow-up needed. Neuro checks were done regularly over the next 
___ hours with no focal changes on exam. 

#Unwitnesssed fall 
#Possible syncope 
Found down by visiting nurse. Patient reported a mechanical fall 
and did not report preceding symptoms such as CP, SOB, 
lightheadedness to family, but is a poor historian. Given 
history of recurrent falls and poor safety awareness it was felt 
that the fall was most likely mechanical, though syncope could 
not be ruled out. Orthostatics were positive but not 
symptomatic. She was kept on telemetry and had approximately 1 
episode per day of <60s self limited SVT. We switched her 
atenolol to metoprolol in order to continue SVT suppression with 
less blood pressure lowering effect. We discussed fall risk with 
Ms. ___ HCP and family, and will discharge her with ___ and 
home ___ services for home safety evaluation to optimize her 
environment and improve safety awareness. 

#Dementia
Baseline dementia, was believed to be at her baseline based on 
discussion with her family and her primary care physician. She 
lives independently in a home connected to her son's, and they 
frequently check on her. She has ___ as well. Her family checks 
on her to assist with meals and other ADLs. 

#Bladder Mass
#Possible UTI
#Anemia
Has history of recurrent UTIs on nitrofurantoin daily. Imaging 
shows known bladder mass, which is being conservatively 
monitored by her urologist at ___. UA with WBC and RBCs, 
and she was initially started on CTX. Urine culture ultimately 
negative so abx stopped. We felt her UA was related to bladder 
mass rather than infection. She also was found to have Hgb 
around 9, which was below her recent baseline at PCP office in 
___, we felt likely related to ongoing bleeding from bladder 
mass. She should have this followed up as outpatient. 

#SVT
Has known history of supraventricular tachycardia. Had 2 self 
limited episodes overnight of SVT on telemetry without symptoms 
that were self limited. Her home atenolol was changed to 
metoprolol with the goal of having better control of her SVT 
while having less of an effect on her blood pressure to prevent 
falls/orthostasis. 

#Hypertension 
Home HTZ and atenolol were held on discharge given orthostasis. 

#GERD
Home ranitidine was continued.

#Hypercholesterolemia 
Home simvastatin was continued. 

Transitional Issues:
[ ] Please follow up with the Traumatic Brain Injury Clinic 
[ ] Please follow up with your Urologist in ___ about your 
known bladder mass
[ ] HCTZ was held in the setting of her fall, and orthostasis in 
house. At next PCP appointment consider rechecking orthostatics 
and consider discontinuation if no significant hypertension. 
[ ] Atenolol was changed to metoprolol to reduce blood pressure 
lowering to prevent orthostasis and falls. 
[ ] Has anemia with Hgb 9.3 on ___ noted to be down from her 
baseline. We suspect this is related to bleeding from her 
bladder mass. Recheck CBC at next PCP ___. 
[ ] Ongoing home safety awareness training, home safety eval, 
consider increasing home supports if felt patient unsafe at 
home. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
2. Brimonidine Tartrate 0.15% Ophth. 1 DROP BOTH EYES Q8H 
3. Ranitidine 150 mg PO BID 
4. Atenolol 50 mg PO DAILY 
5. Multivitamins 1 TAB PO DAILY 
6. Nitrofurantoin (Macrodantin) 100 mg PO BID 
7. Simvastatin 20 mg PO QPM 
8. Hydrochlorothiazide 12.5 mg PO DAILY 

 
Discharge Medications:
1.  Metoprolol Succinate XL 50 mg PO DAILY SVT 
RX *metoprolol succinate 50 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
2.  Brimonidine Tartrate 0.15% Ophth. 1 DROP BOTH EYES Q8H  
3.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
4.  Multivitamins 1 TAB PO DAILY  
5.  Nitrofurantoin (Macrodantin) 100 mg PO BID  
6.  Ranitidine 150 mg PO BID  
7.  Simvastatin 20 mg PO QPM  
8. HELD- Hydrochlorothiazide 12.5 mg PO DAILY  This medication 
was held. Do not restart Hydrochlorothiazide until you are back 
home and your blood pressures have been stable. 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Subarachnoid Hemorrhage 
Mechanical Fall

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,  

 It was a pleasure to take care of you at ___. 
 
 WHY WERE YOU HERE?  
- You were admitted to the hospital because you fell and hit 
your head. 
- You first went to ___, where they found a 
small bleed in your brain. 
- You were transferred to ___ to be seen by the neurosurgery 
team. The neurosurgery team here evaluated you, and after seeing 
more images of your brain the next day that showed no increase 
in the bleed, they recommended no further interventions or 
follow up. 
- You were then brought up to the medicine floor for monitoring 
before being ready to go back home. 

 WHAT WAS DONE WHILE YOU WERE IN THE HOSPITAL  
- While you were in the hospital you had a head CT which showed 
no increase in the size of the bleed in your brain since the 
last head CT, which was reassuring. 
- You also had a urinalysis that showed some blood and red blood 
cells. Although this is most likely a result of the mass in your 
bladder, you were started on antibiotics briefly until the urine 
culture was reassuring for no urinary tract infection. 
 
 WHAT SHOULD YOU DO WHEN YOU GET HOME?  
 1) Please follow up at your outpatient appointments.  
 2) Please take your medications as prescribed.
 3) We changed your atenolol to another medicine called 
metoprolol. This will help to suppress your fast heart rates 
without affecting your blood pressures.  
  
 We wish you the best!  
 Your ___ Care Team  

 
Followup Instructions:
___